US04107229
A vinyl terminated, fully reacted urethane acrylate was prepared by charging 422 parts of the oxypropylated novolac prepared in Example 1 (2.65 hydroxyl equivalents), 381 parts of hydroxypropyl methacrylate (2.65 moles), 1283 parts of styrene solvent, and 0.28 parts of p-benzoquinone inhibitor to a reactor and heating to 50° C to effect dissolution of the reactants. To the solution was added 460 parts (2.65 moles) of toluene diisocyanate (a commercially available mixture of approximately 80 percent 2,4-isomer and 20 percent 2,6-isomer) and the solution was heated and maintained at about 70° - 80° C with stirring for about 4 hours.

reactant | hydroxypropyl methacrylate | 2.65 moles | C(C(=C)C)(=O)OCCCO | C7H12O3
reactant | p-benzoquinone | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | toluene diisocyanate | 2.65 moles | CC=1C(N=C=O)=CC(N=C=O)=CC1 | C9H6N2O2
solvent | styrene | C=CC1=CC=CC=C1 | C8H8
product | urethane acrylate | C(C=C)(=O)O.NC(=O)OCC | InChI=1S/C3H7NO2.C3H4O2/c1-2-6-3(4)5;1-2-3(4)5/h2H2,1H3,(H2,4,5);2H,1H2,(H,4,5)
